US08937150B2
4-((3-ethyloxetan-3-yl)methoxy)aniline
To a solution of 3-ethyl-3-((4-nitrophenoxy)methyl)oxetane (8.28 g, 34.9 mmol) in a 3:3:1 mixture of THF:EtOH:water (140 mL) at room temperature was added ammonium chloride (2.80 g, 52.3 mmol) followed by iron powder (9.74 g, 174 mmol). The mixture was heated to 90° C. for 1 hour, then it was filtered hot through diatomaceous earth with a THF wash to complete the transfer. The filtrate was concentrated under reduced pressure, and the residue was taken up in ethyl acetate then washed with brine, dried (Na2SO4), and concentrated to provide the title compound (7.12 g, 98% yield) without further purification.

reactant | 3-ethyl-3-((4-nitrophenoxy)methyl)oxetane | 34.9 mmol, 8.28 g | C(C)C1(COC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO4
reactant | THF | C1CCOC1 | C4H8O
reactant | EtOH | CCO | C2H6O
reactant | ammonium chloride | 52.3 mmol, 2.80 g | [Cl-].[NH4+]
catalyst | iron | 174 mmol, 9.74 g | [Fe] | Fe
solvent | water | 140 mL | O | H2O
product | 4-((3-ethyloxetan-3-yl)methoxy)aniline | 7.12 g, 98% yield | C(C)C1(COC1)COC1=CC=C(N)C=C1 | C12H17NO2
